US09216182B2
c) 1-(6-carbamoylpyridin-3-yl)pyrrolidin-3-yl 4-nitrophenyl carbonate
To a solution of 5-(3-hydroxypyrrolidin-1-yl)picolinamide (1 g, 4.83 mmol) and 4-nitrophenyl carbonochloridate (1.46 g, 8.3 mmol) in pyridine (30 mL) was added DIPEA (1.25 g, 11 mmol) and the resulting mixture was stirred at rt for 3 days. The precipitate was collected by filtration and the cake was washed with DCM (20 mL) to give the desired compound (1.0 g, 56%) as a pale yellow solid. [LCMS: RtA=1.48 min, m/z 373.2 [M+H]+].

reactant | 5-(3-hydroxypyrrolidin-1-yl)picolinamide | 4.83 mmol, 1 g | OC1CN(CC1)C=1C=CC(=NC1)C(=O)N | C10H13N3O2
reactant | 4-nitrophenyl carbonochloridate | 8.3 mmol, 1.46 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | DIPEA | 11 mmol, 1.25 g | CCN(C(C)C)C(C)C | C8H19N
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 1-(6-carbamoylpyridin-3-yl)pyrrolidin-3-yl 4-nitrophenyl carbonate | 1.0 g, 56% | C(OC1CN(CC1)C=1C=NC(=CC1)C(N)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H16N4O6
